US07863302B2
5-(4-Hydroxy-2-methyl-phenyl)-benzofuran-2-carboxylic acid ethyl ester
A solution of 5-bromo-benzofuran-2-carboxylic acid ethyl ester (275 mg, 1.02 mmol) and 2-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (239 mg, 1.11 mmol) in toluene (5.0 mL) and THF (5.0 mL) is added to a flask. The flask is evacuated and re-filled with N2 three times. Pd(OAc)2 (5 mg, 0.022 mmol) and 2-dicyclohexylphosphino-2,6-dimethoxy-1,1′-biphenyl (20 mg, 0.049) and potassium phosphate, tribasic, N-hydrate (432 mg, 2.04 mmol) are added and the mixture is heated at 85° C. for 8 hours. The reaction mixture is cooled to room temperature and filtered through a pad of diatomaceous earth. The filtrate is concentrated to a residue which is purified by silica gel chromatography eluting with 20-30% EtOAc/Hexanes to provide the title compound (179 mg, 56%). ES/MS m/e 297.0 (M+1), 295.0 (M−1).

reactant | 5-bromo-benzofuran-2-carboxylic acid ethyl ester | 1.02 mmol, 275 mg | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)Br | C11H9BrO3
reactant | 2-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 1.11 mmol, 239 mg | CC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.022 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 2-dicyclohexylphosphino-2,6-dimethoxy-1,1′-biphenyl | 20 mg | C1(CCCCC1)P(C1(C(=C(C=CC1)OC)C1=CC=CC=C1)OC)C1CCCCC1 | C26H37O2P
product | 5-(4-Hydroxy-2-methyl-phenyl)-benzofuran-2-carboxylic acid ethyl ester | 179 mg, 56% | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)C2=C(C=C(C=C2)O)C | C18H16O4
